### PR TITLE
[Merged by Bors] - feat(RingTheory): Surjective on stalks ring homomorphisms.

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
...
+import Mathlib.AlgebraicGeometry.PrimeSpectrum.Basic
+
+/-!
+
+# Lemmas regarding the prime spectrum of tensor products
+
+## Main result
+- `PrimeSpectrum.embedding_tensorProductTo_of_surjectiveOnStalks`:
+  If `R →+* T` is surjective on stalks,
+  then `Spec(S ⊗[R] T) → Spec S × Spec T` is an topological embedding.
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:16]:
```suggestion
  then `Spec(S ⊗[R] T) → Spec S × Spec T` is a topological embedding.
```

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+import Mathlib.AlgebraicGeometry.PrimeSpectrum.Basic
+
+/-!
+
+# Lemmas regarding the prime spectrum of tensor products
+
+## Main result
+- `PrimeSpectrum.embedding_tensorProductTo_of_surjectiveOnStalks`:
+  If `R →+* T` is surjective on stalks,
+  then `Spec(S ⊗[R] T) → Spec S × Spec T` is a topological embedding.
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:16]: Wait, don't we already have the statement that this is an iso? Or is it only an iso as raw types?

File: Mathlib/RingTheory/SurjectiveOnStalks.lean [hunk 3]
```diff
@@ -0,0 +1,169 @@
...
+    RingHom.coe_comp] at this
+  exact this.of_comp
+
+open TensorProduct
+
+/--
+If `R → T` is surjective on stalks, and `J` is some prime of `T`,
+then every element `x` in `S ⊗[R] T` satisfies `(1 ⊗ rt)x = a ⊗ t` for some `r : R` and `rt ∉ J`.
+-/
+lemma exists_mul_eq_tmul_of_surjectiveOnStalks
```
Comment (dagurtomas) [inline Mathlib/RingTheory/SurjectiveOnStalks.lean:114]: Here, using the namespace `SurjectiveOnStalks` might be useful for dot notation. For `of_surjective` and `of_isLocalization`, dot notation is useless, so I'm not sure we want them in the namespace. In any case you might want to just open the namespace at some point to avoid writing `SurjectiveOnStalks.` all the time.

File: Mathlib/RingTheory/SurjectiveOnStalks.lean [hunk 4]
```diff
@@ -0,0 +1,169 @@
...
+namespace RingHom
+
+/--
+A ring homomorphism `R →+* S` is surjective on stalks if `R_p →+* S_q` is surjective for all pairs
+of primes `p = f⁻¹(q)`.
+-/
+def SurjectiveOnStalks (f : R →+* S) : Prop :=
+  ∀ (I : Ideal S) (_ : I.IsPrime), Function.Surjective (Localization.localRingHom _ I f rfl)
+
+lemma surjective_localRingHom_iff (P : Ideal S) [P.IsPrime] :
```
Comment (dagurtomas) [inline Mathlib/RingTheory/SurjectiveOnStalks.lean:30]: Maybe this lemma deserves a docstring to explain its usage, since it's used a lot.

File: Mathlib/RingTheory/SurjectiveOnStalks.lean [hunk 5]
```diff
@@ -0,0 +1,169 @@
...
+-/
+import Mathlib.RingTheory.Localization.AtPrime
+import Mathlib.RingTheory.TensorProduct.Basic
+
+/-!
+# Ring Homomorphisms surjective on stalks
+
+In this file, we prove some results on ring homomorphisms surjective on stalks, to be used in
+the development of immersions in algebraic geometry.
+
```
Comment (dagurtomas) [inline Mathlib/RingTheory/SurjectiveOnStalks.lean:14]: Add some more details about what results are in this file?

File: Mathlib/RingTheory/SurjectiveOnStalks.lean [hunk 6]
```diff
@@ -0,0 +1,169 @@
...
+  constructor
+  · intro H y
+    obtain ⟨a, ha⟩ := H (IsLocalization.mk' _ y (1 : P.primeCompl))
+    obtain ⟨a, t, rfl⟩ := IsLocalization.mk'_surjective (P.comap f).primeCompl a
+    rw [Localization.localRingHom_mk', IsLocalization.mk'_eq_iff_eq,
+      Submonoid.coe_one, one_mul, IsLocalization.eq_iff_exists P.primeCompl] at ha
+    obtain ⟨c, hc⟩ := ha
+    simp only [← mul_assoc] at hc
+    refine ⟨_, _, _, c.2, t.2, hc.symm⟩
+  · refine fun H y ↦ Localization.ind (fun ⟨y, t, h⟩ ↦ ?_) y
```
Comment (dagurtomas) [inline Mathlib/RingTheory/SurjectiveOnStalks.lean:42]:
```suggestion
    exact ⟨_, _, _, c.2, t.2, hc.symm⟩
  · refine fun H y ↦ Localization.ind (fun ⟨y, t, h⟩ ↦ ?_) y
```

File: Mathlib/RingTheory/SurjectiveOnStalks.lean [hunk 7]
```diff
@@ -0,0 +1,169 @@
...
+lemma SurjectiveOnStalks.baseChange
+    (hf : (algebraMap R T).SurjectiveOnStalks) :
+    (algebraMap S (S ⊗[R] T)).SurjectiveOnStalks := by
+  let g : T →+* S ⊗[R] T := Algebra.TensorProduct.includeRight.toRingHom
+  intros J hJ
+  rw [surjective_localRingHom_iff]
+  intro x
+  obtain ⟨t, r, a, ht, e⟩ := exists_mul_eq_tmul_of_surjectiveOnStalks hf x (J.comap g)
+    inferInstance
+  refine ⟨a, algebraMap _ _ r, 1 ⊗ₜ (r • t), ht, ?_, ?_⟩
```
Comment (dagurtomas) [inline Mathlib/RingTheory/SurjectiveOnStalks.lean:147]:
```suggestion
  intro J hJ
  rw [surjective_localRingHom_iff]
  intro x
  obtain ⟨t, r, a, ht, e⟩ := exists_mul_eq_tmul_of_surjectiveOnStalks hf x (J.comap g)
    inferInstance
  exact ⟨a, algebraMap _ _ r, 1 ⊗ₜ (r • t), ht, ?_, ?_⟩ 
```

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean [hunk 8]
```diff
@@ -0,0 +1,80 @@
...
+import Mathlib.RingTheory.SurjectiveOnStalks
+import Mathlib.AlgebraicGeometry.PrimeSpectrum.Basic
+
+/-!
+
+# Lemmas regarding the prime spectrum of tensor products
+
+## Main result
+- `PrimeSpectrum.embedding_tensorProductTo_of_surjectiveOnStalks`:
+  If `R →+* T` is surjective on stalks,
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:15]: Could you add a reference to the file where "surjective on stalks" is defined?

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean [hunk 9]
```diff
@@ -0,0 +1,80 @@
...
+open TensorProduct
+
+/-- The canonical map from `Spec(S ⊗[R] T)` to the cartesian product `Spec S × Spec T`. -/
+noncomputable
+def PrimeSpectrum.tensorProductTo (x : PrimeSpectrum (S ⊗[R] T)) :
+    PrimeSpectrum S × PrimeSpectrum T :=
+  ⟨comap (algebraMap _ _) x, comap Algebra.TensorProduct.includeRight.toRingHom x⟩
+
+lemma PrimeSpectrum.continuous_tensorProductTo : Continuous (tensorProductTo R S T) :=
+  (comap _).2.prod_mk (comap _).2
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:32]: Maybe this should just be term of type `C(_, _)`?

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean [hunk 10]
```diff
@@ -0,0 +1,80 @@
...
+    Embedding (tensorProductTo R S T) := by
+  refine ⟨?_, fun p₁ p₂ e ↦
+    (embedding_tensorProductTo_of_surjectiveOnStalks_aux R S T hRT p₁ p₂ e).antisymm
+      (embedding_tensorProductTo_of_surjectiveOnStalks_aux R S T hRT p₂ p₁ e.symm)⟩
+  let g : T →+* S ⊗[R] T := Algebra.TensorProduct.includeRight.toRingHom
+  refine ⟨(continuous_tensorProductTo R S T).le_induced.antisymm ?_⟩
+  conv_rhs => rw [isBasis_basic_opens.eq_generateFrom]
+  rw [TopologicalSpace.le_generateFrom_iff_subset_isOpen]
+  rintro _ ⟨_, ⟨f, rfl⟩, rfl⟩
+  rw [Set.mem_setOf_eq, @isOpen_iff_forall_mem_open]
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:67]: Could this part be extracted to a lemma about when a topology `t` satisfies `t \le zariskiTopology`?

**Review by dagurtomas — COMMENTED** [review]
Looks good, added some comments.

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean (hunk 9 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:32]: I think I prefer unbundled morphisms more. Plus the main point of this function is that it is a topological embedding (under assumptions) and not merely continuous functions.

File: Mathlib/RingTheory/SurjectiveOnStalks.lean (hunk 7 above)
Comment (erdOne) [reply Mathlib/RingTheory/SurjectiveOnStalks.lean]: I don't think `exact` works here.

File: Mathlib/RingTheory/SurjectiveOnStalks.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/RingTheory/SurjectiveOnStalks.lean]: I adjusted the names according to your suggestions. I refrained from using `namespace` as only a few lemmas are in it.

File: Mathlib/RingTheory/SurjectiveOnStalks.lean (hunk 7 above)
Comment (dagurtomas) [reply Mathlib/RingTheory/SurjectiveOnStalks.lean]: You're right, I misread

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean (hunk 10 above)
Comment (dagurtomas) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean]: Yes, thanks

**Review by dagurtomas — APPROVED** [review]
LGTM

File: Mathlib/RingTheory/SurjectiveOnStalks.lean [hunk 11]
```diff
@@ -0,0 +1,181 @@
...
+  intros I hI
+  have := hg I hI
+  rw [Localization.localRingHom_comp (I.comap (g.comp f)) (I.comap g) _ _ rfl _ rfl,
+    RingHom.coe_comp] at this
+  exact this.of_comp
+
+open TensorProduct
+
+/--
+If `R → T` is surjective on stalks, and `J` is some prime of `T`,
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/SurjectiveOnStalks.lean:124]: The docstring doesn't make sense.
`(1 ⊗ r • t) * x = a ⊗ t` for some `a : S`, `r : R` and `t: T` such that `r • t ∉ J`

File: Mathlib/RingTheory/SurjectiveOnStalks.lean [hunk 12]
```diff
@@ -0,0 +1,181 @@
...
+then every element `x` in `S ⊗[R] T` satisfies `(1 ⊗ rt)x = a ⊗ t` for some `r : R` and `rt ∉ J`.
+-/
+lemma SurjectiveOnStalks.exists_mul_eq_tmul
+    (hf₂ : (algebraMap R T).SurjectiveOnStalks)
+    (x : S ⊗[R] T) (J : Ideal T) (hJ : J.IsPrime) :
+    ∃ (t : T) (r : R) (a : S), (r • t ∉ J) ∧
+      (1 : S) ⊗ₜ[R] (r • t) * x = a ⊗ₜ[R] t := by
+  induction' x using TensorProduct.induction_on with x₁ x₂ x₁ x₂ hx₁ hx₂
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/SurjectiveOnStalks.lean:132]: I had been told that one should now prefer `induction` to `induction'`.

File: Mathlib/RingTheory/SurjectiveOnStalks.lean [hunk 13]
```diff
@@ -0,0 +1,181 @@
...
+variable {T} [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower R S T]
+variable {g : S →+* T} {f : R →+* S}
+
+namespace RingHom
+
+/--
+A ring homomorphism `R →+* S` is surjective on stalks if `R_p →+* S_q` is surjective for all pairs
+of primes `p = f⁻¹(q)`.
+-/
+def SurjectiveOnStalks (f : R →+* S) : Prop :=
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/SurjectiveOnStalks.lean:32]: This is not crucial, but below you denote prime ideals as `P`, maybe that would be clearer here.

File: Mathlib/Topology/Sets/Opens.lean [hunk 14]
```diff
@@ -306,6 +306,12 @@ theorem IsBasis.isCompact_open_iff_eq_finite_iUnion {ι : Type*} (b : ι → Ope
     simp
   · exact hb'
 
+lemma IsBasis.le_iff {α} {t₁ t₂ : TopologicalSpace α}
+    {Us : Set (Opens α)} (hUs : IsBasis Us) : -- basis for t₂
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Sets/Opens.lean:310]: What in the syntax makes us sure that it is a basis for `t₂`? Wouldn't it be safer to enter `@IsBasis α t₂ Us`?

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean [hunk 15]
```diff
@@ -0,0 +1,78 @@
...
+def PrimeSpectrum.tensorProductTo (x : PrimeSpectrum (S ⊗[R] T)) :
+    PrimeSpectrum S × PrimeSpectrum T :=
+  ⟨comap (algebraMap _ _) x, comap Algebra.TensorProduct.includeRight.toRingHom x⟩
+
+lemma PrimeSpectrum.continuous_tensorProductTo : Continuous (tensorProductTo R S T) :=
+  (comap _).2.prod_mk (comap _).2
+
+variable (hRT : (algebraMap R T).SurjectiveOnStalks)
+
+lemma PrimeSpectrum.embedding_tensorProductTo_of_surjectiveOnStalks_aux
```
Comment (AntoineChambert-Loir) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:36]: `SurjectiveOnStalks` uses `(I : Ideal _) (_ : IsPrime I)`.  Here, you prefer `p : PrimeSpectrum _`. In what case do you prefer which?

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:36]: I only use `PrimeSpectrum` when I need the zarkisi topology.

Comment (AntoineChambert-Loir) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:36]: Is it needed here?

Comment (AntoineChambert-Loir) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:36]: Oh, I see. The `_aux` function proves half of injectivity, but  embedding is both injectivity and something about the topology.

File: Mathlib/Topology/Sets/Opens.lean [hunk 16]
```diff
@@ -306,6 +306,12 @@ theorem IsBasis.isCompact_open_iff_eq_finite_iUnion {ι : Type*} (b : ι → Ope
     simp
   · exact hb'
 
+lemma IsBasis.le_iff {α} {t₁ t₂ : TopologicalSpace α}
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Sets/Opens.lean:309]: (By the way, maybe a leaner syntax such as`IsBasis[t₂] Us` was preferable, I don't know the usages here.)

Comment (erdOne) [reply Mathlib/Topology/Sets/Opens.lean:309]: I just looked for it as well but seems like it does not exist. This is the only occurrence of `@IsBasis` in mathlib so maybe it's not worth adding it.

Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Sets/Opens.lean:309]: Maybe that exists for `Opens`, anyway, there's no ambiguity here which is what matters.

File: Mathlib/RingTheory/SurjectiveOnStalks.lean [hunk 17]
```diff
@@ -0,0 +1,185 @@
...
+    ⟨r, 1, 1, by simpa [← Ideal.eq_top_iff_one], by simpa [← Ideal.eq_top_iff_one], by simp [hr]⟩
+
+variable (S) in
+lemma surjectiveOnStalks_of_isLocalization [IsLocalization M S] :
+    SurjectiveOnStalks (algebraMap R S) := by
+  refine surjectiveOnStalks_of_exists_div fun s ↦ ?_
+  obtain ⟨x, s, rfl⟩ := IsLocalization.mk'_surjective M s
+  exact ⟨x, s, IsLocalization.map_units S s, IsLocalization.mk'_spec' S x s⟩
+
+lemma SurjectiveOnStalks.comp (hg : SurjectiveOnStalks g) (hf : SurjectiveOnStalks f) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/SurjectiveOnStalks.lean:107]: Besides composition, is it relevant to add the case of `id` or would the case of localization take care of it?

Comment (erdOne) [reply Mathlib/RingTheory/SurjectiveOnStalks.lean:107]: `surjectiveOnStalks_of_surjective` should cover it quite easily.

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean [hunk 18]
```diff
@@ -0,0 +1,78 @@
...
+# Lemmas regarding the prime spectrum of tensor products
+
+## Main result
+- `PrimeSpectrum.embedding_tensorProductTo_of_surjectiveOnStalks`:
+  If `R →+* T` is surjective on stalks (see Mathlib/RingTheory/SurjectiveOnStalks.lean),
+  then `Spec(S ⊗[R] T) → Spec S × Spec T` is a topological embedding
+  (where `Spec S × Spec T` is the cartesian product with the product topology).
+-/
+
+variable (R S T) [CommRing R] [CommRing S] [Algebra R S]
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:20]:
```suggestion
variable (R S T : Type*) [CommRing R] [CommRing S] [Algebra R S]
```
Is this the same?

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean [hunk 19]
```diff
@@ -0,0 +1,78 @@
...
+  obtain ⟨t, r, a, ht, e⟩ := hRT.exists_mul_eq_tmul x
+    (p₂.asIdeal.comap g) inferInstance
+  have h₁ : a ⊗ₜ[R] t ∈ p₁.asIdeal := e ▸ p₁.asIdeal.mul_mem_left (1 ⊗ₜ[R] (r • t)) hxp₁
+  have h₂ : a ⊗ₜ[R] t ∉ p₂.asIdeal := e ▸ p₂.asIdeal.primeCompl.mul_mem ht hxp₂
+  rw [← mul_one a, ← one_mul t, ← Algebra.TensorProduct.tmul_mul_tmul] at h₁ h₂
+  have h₃ : t ∉ p₂.asIdeal.comap g := fun h ↦ h₂ (Ideal.mul_mem_left _ _ h)
+  have h₄ : a ∉ p₂.asIdeal.comap (algebraMap S (S ⊗[R] T)) :=
+    fun h ↦ h₂ (Ideal.mul_mem_right _ _ h)
+  replace h₃ : t ∉ p₁.asIdeal.comap g := by
+    rwa [show p₁.asIdeal.comap g = p₂.asIdeal.comap g from congr($h.2.1)]
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:52]: What does the `$` do? (personal curiosity).

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean [hunk 20]
```diff
@@ -0,0 +1,78 @@
...
+
+lemma PrimeSpectrum.embedding_tensorProductTo_of_surjectiveOnStalks :
+    Embedding (tensorProductTo R S T) := by
+  refine ⟨?_, fun p₁ p₂ e ↦
+    (embedding_tensorProductTo_of_surjectiveOnStalks_aux R S T hRT p₁ p₂ e).antisymm
+      (embedding_tensorProductTo_of_surjectiveOnStalks_aux R S T hRT p₂ p₁ e.symm)⟩
+  let g : T →+* S ⊗[R] T := Algebra.TensorProduct.includeRight.toRingHom
+  refine ⟨(continuous_tensorProductTo ..).le_induced.antisymm (isBasis_basic_opens.le_iff.mpr ?_)⟩
+  rintro _ ⟨f, rfl⟩
+  rw [@isOpen_iff_forall_mem_open]
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:65]: Is the `@` needed here?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean (hunk 19 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:52]: It is the syntax of `congr`. If `e` is a term of type `a = b`, `congr(f $e)` is a term of type `f a = f b`. Here it is `congr(($h).2.1)` Apparently lean is smart enough to figure out the dot notations.

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean (hunk 20 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/TensorProduct.lean:65]: Yes because the `TopologicalSpace` argument is not the one given by typeclass synthesis.

**Comment by erdOne** [comment]
Thanks for the reviews!
bors merge
